US04534890
Preparation of 4-Propionoxy-Cyclohexane Carboxylic Acid, Ethyl Ester
289 Grams of ethyl-p-hydroxybenzoate and 4 grams of 5% palladium on carbon are charged to a 1-liter magnetically stirred autoclave. The material is hydrogenated at 125°-140° C. and 50 psig hydrogen pressure. Hydrogenation is continued until the uptake is approximately 70% of theory. GLC analysis indicates that the reaction mass is now 71% ketone and 7.6% alcohol. The reaction product is cooled, diluted with isopropyl alcohol, filters. The isopropyl alcohol is removed by stripping and the remainder is distilled through a short column. 286 Grams of the resulting distillate is admixed with 75 grams of propionicanhydride at 100° C. for a period of four hours. The resulting material is washed until neutral and distilled through an eight plate vigreux column yielding the following fractions:

reactant | ethyl-p-hydroxybenzoate | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 4 grams | [Pd] | Pd
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 4-Propionoxy-Cyclohexane Carboxylic Acid, Ethyl Ester | C(CC)(=O)OC1CCC(CC1)C(=O)OCC | C12H20O4
